Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
tetracycline / NSAIDS (Non-Steroidal Anti-Inflammatory Drug)
 
Attending: ___.
 
Chief Complaint:
Abdominal mass
 
Major Surgical or Invasive Procedure:
ULTRASOUND GUIDED DRAINAGE CATHETER PLACEMENT

 
History of Present Illness:
Ms. ___ is a ___ with history of L5-S1 spinal fusion by
both anterior and posterior approach by Dr. ___ on ___ who
presents with an abdominal mass near her anterior surgical site. 


Per history obtained in the ED, the patient developed an
abdominal mass near her anterior surgical site that was
associated with ___ abdominal pain. The pain has been constant
and there are no alleviating factors. It is associated with
numbness near the surgical site. She denied fevers, chills,
nausea, vomiting, chest pain, or shortness of breath. The 
patient
was seen in clinic for her second post-operative visit this
morning and was referred to ___ for further evaluation. 

In the ED, initial vitals were: T 97.8 BP 168/99 HR 77 RR 18 O2
99% RA 

Exam notable for:
- Abdomen: Soft, surgical site well-healed without any signs of
erythema, dehiscence or pus. Beneath, surgical site, feel a mass
that is tender on palpation.

Labs were notable for:
- WBC 7.8, Hgb 10.6
- CRP 9.7
- Lactate 1.1

Studies were notable for:
- ___ CT A&P w/ contrast:
1. 3.8 x 5.1 x 4.1 cm rim enhancing fluid collection in the
anterior
abdominal wall with mild adjacent fat stranding. While this may
represent a postoperative seroma, the presence of gas within the
collection raises suspicion for superinfection.
2. Diverticulosis without evidence of acute diverticulitis.

The patient was given:
- IV morphine sulfate 4mg x2, IV ondansetron 4mg 

Consults:
- Spine: No neurosurgical intervention indicated. Recommend
general surgery consult to rule-out intra-abdominal abscess.
Follow-up with NEB orthopedic surgeon. 

- Surgery: No concern for intra-abdominal abscess as collection
is superficial to fascia. Consider ___ drainage. Signing off.

- ___: Awaiting recommendations 

On arrival to the floor, patient clarifies that she initially
noted the mass approx. 2 weeks after her surgery date. She feels
the mass has been increasing in size slowly and she has 
developed
worsening pain that localizes to the mass (RLQ). Her surgical
sites have healed well and she denies any fevers, purulent
drainage from her incisions, or skin erythema. Her pain had been
improving post-surgery, but now has acutely worsened in the
setting of this mass. She has been taking Tylenol around the
clock at home with some improvement. Immediately post-surgery,
she was taking tramadol which greatly helped, but she has been
out of tramadol for several weeks. She does not like oxycodone 
or
any other opiates and would prefer not to take them. 
 
Past Medical History:
Asthma
Migraine headache
Psoriasis
Obesity
HTN
HLD
GERD
Chronic back pain 
Lumbar stenosis/spondylosis s/p L5-S1 anterior lumbar interbody
fusion with cage (Dr. ___, ___ c/b post-operative seroma 
(this admission)
 
Social History:
___
Family History:
T2DM in several family members
 
Physical ___:
ADMISSION PHYSICAL EXAM:
VITALS: Temp: 97.5 PO BP: 165/80 L Lying HR: 69 RR: 20 O2 sat:
94% O2 delivery: Ra 
GENERAL: Well-appearing, laying in bed, in moderate distress 
with
movement
HEENT: NC/AT, EOMI, MMM
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: Two well-healed vertical surgical incisions on either side
of lumbar spine, no purulent drainage or skin erythema 
ABDOMEN: Distended, active bowel sounds, roughly 4cm x 4cm
palpable mass in RLQ just lateral to midline, equisite TTP in
this area without rebound/guarding, active bowel sounds 
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: Warm, well-perfused, no rashes
NEUROLOGIC: Alert, moving all 4 limbs spontaneously, no facial
asymmetry 

DISCHARGE PHYSICAL EXAM:
GENERAL: Well-appearing, laying in bed
HEENT: NC/AT, EOMI, MMM
CARDIAC: Regular rhythm, normal rate. No MRG.
LUNGS: Clear to auscultation bilaterally.
BACK: Two well-healed vertical surgical incisions on either side
of lumbar spine, no purulent drainage or skin erythema 
ABDOMEN: Distended, active bowel sounds, active bowel sounds, 
improvement in abdominal mass with improvement in tenderness.
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: Warm, well-perfused, no rashes
NEUROLOGIC: No gross motor/coordination abnormalities.
 
Pertinent Results:
ADMISSION/IMPORTANT LABS:
___ 04:34PM BLOOD WBC-7.8 RBC-3.38* Hgb-10.6* Hct-33.1* 
MCV-98 MCH-31.4 MCHC-32.0 RDW-15.2 RDWSD-54.9* Plt ___
___ 04:34PM BLOOD Neuts-46.2 ___ Monos-8.0 Eos-1.9 
Baso-0.4 Im ___ AbsNeut-3.62 AbsLymp-3.38 AbsMono-0.63 
AbsEos-0.15 AbsBaso-0.03
___ 04:34PM BLOOD Glucose-93 UreaN-11 Creat-0.8 Na-143 
K-3.7 Cl-102 HCO3-28 AnGap-13
___ 04:34PM BLOOD ALT-19 AST-19 AlkPhos-66 TotBili-0.2
___ 07:12AM BLOOD Calcium-9.5 Phos-5.1* Mg-1.9
___ 04:34PM BLOOD HCG-5
___ 04:34PM BLOOD CRP-9.7*
___ 04:58PM BLOOD Lactate-1.1

DISCHARGE LABS:
-------------------
___ 06:41AM BLOOD WBC-6.9 RBC-3.98 Hgb-12.4 Hct-38.6 MCV-97 
MCH-31.2 MCHC-32.1 RDW-14.5 RDWSD-51.8* Plt ___
___ 06:41AM BLOOD Glucose-100 UreaN-13 Creat-0.8 Na-138 
K-4.0 Cl-98 HCO3-21* AnGap-19*
___ 06:41AM BLOOD Calcium-9.7 Phos-4.9* Mg-1.9

IMAGING:
----------
___ ABD & PELVIS WITH CO
1.  3.8 x 5.1 x 4.1 cm thin rim enhancing fluid collection in 
the anterior
abdominal wall with mild adjacent fat stranding.  While this may 
represent a
postoperative seroma, the presence of gas within the collection 
raises
suspicion for superinfection.
2.  Diverticulosis without evidence of acute diverticulitis.

___ IMAGE GUID FLUID C
Successful US-guided placement of ___ pigtail catheter into 
the anterior
abdominal wall collection.  Samples was sent for cell 
count/differential and
microbiology evaluation.

MICROBIOLOGY:
-----------------
___ 2:25 pm PERITONEAL FLUID      PERITONEAL FLUID. 

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count, if 
applicable. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 
 
Brief Hospital Course:
SUMMARY:
=========
Ms. ___ is a ___ with history of L5-S1 spinal fusion by 
both anterior and posterior approach by Dr. ___ on ___ who 
presents with an abdominal mass near her anterior surgical site, 
found to have fluid collection on imaging.

TRANSITIONAL ISSUES:
====================
[] Fluid cultures NGTD, final results pending.
[] Discharged with drain and ___.
[] If total drainage is less than 10cc/24hours for 2 days in a 
row, call ___ or ___ at ___ and arrangements 
will be made for you to come into drain clinic to remove the 
drain.
[] Regardless of drain output, please call ___ on 
___ to discuss the drain with the drain clinic.
[] If you are having urgent issues or cannot reach anyone the 
above number, please call ___ and page ___.

DRAIN CARE:
-Please look at the site every day for signs of infection
(increased redness or pain, swelling, odor, yellow or bloody
discharge, warm to touch, fever).
-Note color, consistency, and amount of fluid in the drain. Call
the doctor, ___, or ___ nurse if the amount
increases significantly or changes in character.
-Be sure to empty the drain bag or bulb frequently. Record the
output daily. You should have a nurse doing this for you.
-You may shower; wash the area gently with warm, soapy water.
-Keep the insertion site clean and dry otherwise.
-Avoid swimming, baths, hot tubs; do not submerge yourself in
water.
- If you develop worsening abdominal pain, fevers or chills
please call Interventional Radiology at ___ at ___ 
and
page ___.
-When the drainage total is LESS THAN 10cc/ml for 2 days in a
row, please have the ___ call Interventional Radiology at ___
at ___ and page ___. This is the Radiology fellow on
call who can assist you.

# CODE: Full, presumed
# CONTACT: ___ 
Phone: ___ 

ACUTE/ACTIVE ISSUES:
====================
# Anterior abdominal wall fluid collection
# Abdominal pain 
Initially, some concern for abscess/infection given 
ring-enhancing and tender on exam. Patient may not have as 
robust immune response to infection given Humira. No fevers or 
leukocytosis and therefore, systemic antibiotics were not 
started. Per ACS, likely post-operative seroma. S/p ___ drainage 
on ___, with improvement in symptoms. Cultures with no growth 
to date.

CHRONIC/STABLE ISSUES:
======================
# HTN - Continued home HCTZ 12.5mg daily
# Psoriasis - Continue home Humira injections 40mg every other 
week
# GERD - Continued home omeprazole 20mg daily
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. Hydrochlorothiazide 12.5 mg PO DAILY 
3. adalimumab 40 mg/0.8 mL subcutaneous EVERY OTHER WEEK 
4. Multivitamins 1 TAB PO DAILY 
5. Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever 
6. Methocarbamol 500 mg PO Q6H:PRN spasm 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever  
2.  adalimumab 40 mg/0.8 mL subcutaneous EVERY OTHER WEEK  
3.  Hydrochlorothiazide 12.5 mg PO DAILY  
4.  Methocarbamol 500 mg PO Q6H:PRN spasm  
5.  Multivitamins 1 TAB PO DAILY  
6.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY: Post-surgical abdominal wall fluid collection.
SECONDARY: S/p L5-S1 spinal fusion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ because you had abdominal 
pain.

WHILE YOU WERE HERE:
- You were found to have an abdominal fluid collection.
- We drained this collection.
- It did not appear infected, so we did not start any 
antibiotics.

WHEN YOU GO HOME: 
- Your medications and follow up appointments are below.
- If total drainage is less than 10cc/24hours for 2 days in a 
row, call ___ at ___ and arrangements 
will be made for you to come into drain clinic to remove the 
drain.
- Regardless of drain output, please call ___ on 
___ to discuss the drain with the drain clinic.
- If you are having urgent issues or cannot reach anyone the 
above number, please call ___ and page ___.

DRAIN CARE INSTRUCTIONS:
- Please look at the site every day for signs of infection 
(increased redness or pain, swelling, odor, yellow or bloody 
discharge, warm to touch, fever).
- Note color, consistency, and amount of fluid in the drain. 
Call the doctor, ___, or ___ nurse if the amount 
increases significantly or changes in character.
- Be sure to empty the drain bag or bulb frequently. Record the 
output daily. You should have a nurse doing this for you.
- You may shower; wash the area gently with warm, soapy water.
- Keep the insertion site clean and dry otherwise.
- Avoid swimming, baths, hot tubs; do not submerge yourself in 
water.
- If you develop worsening abdominal pain, fevers or chills 
please call Interventional Radiology at ___ at ___ 
and page ___.
- When the drainage total is LESS THAN 10cc/ml for 2 days in a 
row, please have the ___ call ___ or call 
Interventional Radiology at ___ at ___ and page 
___. This is the Radiology fellow on call who can assist you.

It was a pleasure taking care of you and we wish you good 
health.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___